* source UPDATED-COLL-PITS-OSCILLATOR-DESIGN
.EXTERNAL OUTPUT Vout
L_Lp         N41434 N41294  1nH  
X_Qm1         N41434 0 N41608 BFP520/INF
X_Qi2         N41608 N41428 N41876 BFP520/INF
C_C1         N41608 N41434  3.4p  TC=0,0 
V_V9         N41294 0 8Vdc
R_Ri         N41428 N41294  4.5k TC=0,0 
C_C2         0 N41608  3.4p  TC=0,0 
X_Qi1         N41428 N41428 N41876 BFP520/INF
V_V11         N41876 0 -8Vdc
R_R1         0 VOUT  50 TC=0,0 
L_L1         0 N44705  1.0e-08  
C_C3         N44705 VOUT  2e-13  TC=0,0 
L_L2         N50998 N44705  2e-09  
C_C5         N41434 N50998  1m  TC=0,0 
